US06323227B1
A 1 M solution of Iodine monochloride in dichloromethane (410 mL, 0.41 mol) is added to a solution of salicylaldehyde (50 g, 0.41 mol) in dichloromethane (150 mL) at 0° C. The resulting solution is warmed to room temperature and stirred overnight. The deep colored solution is discharged with saturated aqueous Na2SO3 (100 mL). The organic layer is separated, washed with water, dried over MgSO4, filtered and concentrated. The crude product is recrystallized from cyclohexane to give 4-iodosalicylaldehyde as yellow crystals (61 g, 0.25 mol). A solution of 4-iodosalicylaldehyde (12.4 g, 50 mmol) and MEM chloride (6 mL, 53 mmol) in THF (50 mL) is added to a suspension of 60% NaH (2.2 g, 55 mmol) in THF (50 mL) at 0° C. The resulting mixture is stirred at room temperature for 2 hours. Aqueous workup and concentration gives product as a liquid (15 g, 45 mmol). 1H NMR (CDCl3, 300 MHz) δ10.36 (s, 1H), 8.11 (d, 1H), 7.73 (dd, 1H), 7.03 (d, 1H), 5.37 (s, 2H), 3.88 (t, 2H), 3.52 (t, 2H), 3.36 (s, 3H). EI MS [M]+=436.

reactant | Iodine monochloride | ICl | ClI
reactant | salicylaldehyde | 0.41 mol, 50 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | Na2SO3 | 100 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.41 mol, 410 mL | ClCCl | CH2Cl2
product | 4-iodosalicylaldehyde | 0.25 mol, 61 g | IC=1C=C(C(C=O)=CC1)O | C7H5IO2
